US07691882B2
3-(3-(4-(Pyridin-3-yloxy)-benzyl)-isoxazol-5-yl)-pyridin-2,6-diamine
To a methanol (10.0 mL) solution of 3-(4-(2-nitro-ethyl)-phenoxy)-pyridine (819 mg, 3.35 mmol) described in Manufacturing Example 76-1-3 was added lithium methoxide (254 mg, 6.70 mmol), which was stirred for 30 minutes at room temperature. The reaction mixture was concentrated under a reduced pressure, and anhydrous dichloromethane (15.0 mL) and anhydrous tetrahydrofuran (7.00 mL) were added to the residue. Titanium (IV) chloride (1.18 mL, 10.7 mmol) was added dropwise to the reaction mixture on a dry ice-ethanol bath (−78° C.), after which the system was stirred for 30 minutes at room temperature. Aqueous sodium bicarbonate and ethyl acetate were added to the reaction mixture on an ice bath (0° C.), and the mixture was filtered through a Celite pad. The organic layer of the filtrate was extracted with ethyl acetate, and this organic layer was washed with water and saturated aqueous sodium chloride, dried over anhydrous magnesium sulfate, and the filtrate was concentrated under a reduced pressure, which gave a crude product (400 mg). To a tetrahydrofuran (5.00 mL) solution of 3-ethynyl-pyridin-2,6-diamine (40.0 mg, 0.300 mmol) described in Manufacturing Example 13-1-3 and this crude product (150 mg) was added triethylamine (125 μL, 0.900 mmol), which was stirred for 3 hours at 60° C. Water was added to the reaction solution at room temperature, which was extracted with ethyl acetate. The organic layer was washed with saturated aqueous sodium chloride and dried over anhydrous magnesium sulfate, and the solvent was evaporated under a reduced pressure. The residue was purified by NH silica gel column chromatography (ethyl acetate:heptane=3:1→5:1) to obtain the title compound (17.0 mg, 15.8%).

reactant | 3-(4-(2-nitro-ethyl)-phenoxy)-pyridine | 3.35 mmol, 819 mg | [N+](=O)([O-])CCC1=CC=C(OC=2C=NC=CC2)C=C1 | C13H12N2O3
reactant | lithium methoxide | 6.70 mmol, 254 mg | C[O-].[Li+]
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
reactant | 3-ethynyl-pyridin-2,6-diamine | 0.300 mmol, 40.0 mg | C(#C)C=1C(=NC(=CC1)N)N | C7H7N3
reactant | triethylamine | 0.900 mmol, 125 μL | C(C)N(CC)CC | C6H15N
catalyst | Titanium (IV) chloride | 10.7 mmol, 1.18 mL | [Ti](Cl)(Cl)(Cl)Cl
solvent | Water | O | H2O
solvent | tetrahydrofuran | 5.00 mL | O1CCCC1 | C4H8O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | methanol | 10.0 mL | CO | CH4O
product | 3-(3-(4-(Pyridin-3-yloxy)-benzyl)-isoxazol-5-yl)-pyridin-2,6-diamine | 17.0 mg, 15.8% | N1=CC(=CC=C1)OC1=CC=C(CC2=NOC(=C2)C=2C(=NC(=CC2)N)N)C=C1 | C20H17N5O2
